data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](CCC(C)OS(=O)(=O)C(F)(F)F)C(C)([O-])OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(CC[O:21]C(C)([O-])OC(=O)C)OS(=O)(=O)C(F)(F)F 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])NC.[OH-:10]>>[H:20][OH:10].CN[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
C[P+:21](C)(C)[CH2:20][CH:10]=[CH:11][O-:12]>>C[P:21](C)C.[CH2:20]=[CH:10][CH:11]=[O:12] 10,11=10,20;20,21=21;12=11
[H:20][NH+:21]1CCCC1.CN1C2CCCC1CC(C2)(N3CCCC3)[O:10][Ti-](Cl)(Cl)(Cl)Cl>>[H:20][O+:10](C1(CC2CCCC(C1)N2C)N3CCCC3)[Ti-](Cl)(Cl)(Cl)Cl.C1CC[NH:21]C1 10=20;20,21=21
[H:20][NH2+:21]C(CC(C1=CC=NC=C1)C(=O)C2=CC=C(C=C2)F)(C3CCN(CC3)C(=O)OCC4=CC=CC=C4)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1CN(CCC1C(CC(C2=CC=NC=C2)C(=O)C3=CC=C(C=C3)F)([NH2:21])O)C(=O)OCC4=CC=CC=C4 10=20;20,21=21
CCC(C)[N:10](C)C.[CH3:20][I:21]>>CCC(C)[N+:10](C)(C)[CH3:20].[I-:21] 10=20;20,21=21
C[N:10](C)[CH2:20][F:21]>>C[N+:10](=[CH2:20])C.[F-:21] 10=20;20,21=21
C1=CC=C(C=C1)C[Br:10].[Al:20](Cl)(Cl)Cl>>C1=CC=C(C=C1)C[Br+:10][Al-:20](Cl)(Cl)Cl 10=20,
[C-:10]#N.C(CCBr)[CH2:20][Br:21]>>C(CCBr)[CH2:20][C:10]#N.[Br-:21] 10=20;20,21=21
CC[S-:10].C1C2=CC=CC=[N+]2C3=[N+:21]([S:20]1)C4=C(N3)C=CC=C4>>CC[S:10][S:20]CC1=CC=CC=[N+]1C2=[N:21]C3=C(N2)C=CC=C3 10=20;20,21=21
[H:10][AlH3-:11].[Li][N+:21](=[CH:20]C)OC>>[H:10][CH:20](C)[N:21]([Li])OC.[AlH3:11] 10,11=10,20;20,21=21
[H:20][OH2+:21].[CH:10]#[C:11]C1=CC=CC=C1>>[H:20][CH:10]=[C+:11]C1=CC=CC=C1.[OH2:21] 10,11=10,20;20,21=21
C[N+:21](=[CH:20]OC)C.[CH2:10]=[C:11](C1=CC=C(C=C1)Cl)[OH:12].CO.C1(=NN=NN1)N.[O-]S(=O)(=O)[O-]>>C[N:21](C)[CH:20]([CH2:10][C:11](=[OH+:12])C1=CC=C(C=C1)Cl)OC.CO.C1(=NN=NN1)N.[O-]S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C1CC2=CC(=CC=C2C(=[O:10])C1)Br.Cl[Ti:20](Cl)(Cl)Cl.C1COCCN1>>C1CC2=CC(=CC=C2C(=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl)C1)Br.C1COCCN1 10=20,
B([O+:21]([CH3:20])C1=C(C=CC(=C1)CCC)C)(Br)Br.[Br-:10]>>B([O:21]C1=C(C=CC(=C1)CCC)C)(Br)Br.[CH3:20][Br:10] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)C(F)(F)F)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=C(C=C2)C(F)(F)F 10=20;20,21=21,22
C[CH:20]=[O+:21]CCC[O:10][Si](C)(C)C>>C[CH:20]1[O:21]CCC[O+:10]1[Si](C)(C)C 10=20;20,21=21
CC[SH:10].CC(=O)O[C:20](=[O:21])C=C>>CC[SH+:10][C:20](C=C)([O-:21])OC(=O)C 10=20;20,21=21
CCCCCCCCC=CCCCCCCC[C:11]([N+]1=CC=C(C=C1)N(C)C)([O-:12])[O:10][C:20](=[NH+:21]C2CCCCC2)NC3CCCCC3.CCCCCCCCC=CCCCCCCCC(=O)[O-].CN(C)C1=CC=NC=C1.C1=CC=C(C=C1)CO>>C1CCC(CC1)N[C:20](=[O:10])[NH:21]C2CCCCC2.CCCCCCCCC=CCCCCCCC[C:11](=[O:12])[N+]1=CC=C(C=C1)N(C)C.CCCCCCCCC=CCCCCCCCC(=O)[O-].CN(C)C1=CC=NC=C1.C1=CC=C(C=C1)CO 10,11=10,20;20,21=21;12=11
[H:20][O+:21]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CCCCCC.CCCCCC[N:10]1CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC.CO.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CCCCCC.CCCCCCN1CCC23C4C1CC5=C2C(=C(C=C5)OC)OC3C(=[O:21])CC4.CO.CS(=O)(=O)[O-] 10=20;20,21=21
CCCCCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)CC(C)C)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)CC(C)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:10][C:11](=O)[O-:12].[CH2:20]=[N+:21]1CC2CC(C1)C=C(C2)C3=CC=CN=C3.O>>[C:11](=O)=[O:12].[H:10][CH2:20][N:21]1CC2CC(C1)C=C(C2)C3=CC=CN=C3.O 10,11=10,20;20,21=21;12=11
CC#[N:10].C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F.CC#CN(C)S(=O)(=O)C>>CC#[N+:10][Si-:20](C)(C)(C)OS(=O)(=O)C(F)(F)F.CC#CN(C)S(=O)(=O)C 10=20,
C1C[N:10](C(C2=C1SC=C2)C3=CC=CC=C3)CCO.[C:20](#[N:21])Br>>C1C[N+:10](C(C2=C1SC=C2)C3=CC=CC=C3)(CCO)[C:20](=[N-:21])Br 10=20;20,21=21
CC[OH:10].C1[CH2:20][OH+:21]1>>CC[OH+:10][CH2:20]C[OH:21] 10=20;20,21=21
C[CH:21]=[C:20]([O-:10])OC>>C[CH-:21][C:20](=[O:10])OC 10=20;20,21=21
C[C:20]([OH:10])([OH+:21]C)SC>>C[C:20](=[OH+:10])SC.C[OH:21] 10=20;20,21=21
CCOC(=O)[CH-:12][C:11]1(CCCC2(N1C(CO2)C3=CC=CC=C3)C)[S:10][P+:20](OC)(OC)OC.CC[NH+](CC)CC.[Br-]>>CCOC(=O)[CH:12]=[C:11]1CCCC2(N1C(CO2)C3=CC=CC=C3)C.CO[P:20](=[S:10])(OC)OC.CC[NH+](CC)CC.[Br-] 10,11=10,20;12=11
[H:20][CH:21](C(=O)CC)[C:22](=[OH+:23])CCC.CC[OH:10]>>[H:20][OH+:10]CC.CCC[C:22](=[CH:21]C(=O)CC)[OH:23] 10=20;20,21=21,22;22,23=23
C[C:20](C)([OH:10])[Br:21]>>C[C:20](=[OH+:10])C.[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(C)([NH2:10])O>>[H:20][NH2+:10]C(C)(NCC)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[CH3:20][O:21][P+:22](C)(C)C.[I-:10]>>C[P:22](=[O:21])(C)C.[CH3:20][I:10] 10=20;20,21=21,22
C[OH:10].C=CC[C:20]#[NH+:21].[Cl-]>>C[OH+:10][C:20](=[NH:21])CC=C.[Cl-] 10=20;20,21=21
C1CCC2(C1)CCC[CH:10]2[OH2+:11]>>C1CCC2(C1)CCC[CH+:10]2.[OH2:11] 10,11=11
[H:20][N+:21]1(CCOCC1)C2(CCCC2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C1CCC(C1)([N:21]2CCOCC2)O 10=20;20,21=21
C[C:20]#[N+:21]C(C)(C)C.[OH2:10].OS(=O)(=O)[O-]>>C[C:20](=[N:21]C(C)(C)C)[OH2+:10].OS(=O)(=O)[O-] 10=20;20,21=21
CCOC(=O)CCCCC(C=CC1C(CC(=O)C1CCC(=O)OCC)O[Si](C)(C)C(C)(C)C)[O:21][S:20]C2=CC=CC=C2.CO[P:10](OC)OC.CO>>CCOC(=O)CCCCC(C=CC1C(CC(=O)C1CCC(=O)OCC)O[Si](C)(C)C(C)(C)C)[O-:21].CO[P+:10](OC)(OC)[S:20]C1=CC=CC=C1.CO 10=20;20,21=21
